US07790770B2
A solution of benzyl 2,2-difluorocyclohexylcarbamate (38 mg, 0.14 mmol) in 6 N HCl (2 mL) was heated at 100° C. for 2 h. The cooled reaction mixture was extracted with ether (3×1 mL) and the combined organic layers were concentrated to give 2,2-difluorocyclohexanamine hydrochloride as a light brown solid (23 mg, 96% crude).

reactant | benzyl 2,2-difluorocyclohexylcarbamate | 0.14 mmol, 38 mg | FC1(C(CCCC1)NC(OCC1=CC=CC=C1)=O)F | C14H17F2NO2
reactant | HCl | 6 N, 2 mL | Cl | ClH
product | 2,2-difluorocyclohexanamine hydrochloride | Cl.FC1(C(CCCC1)N)F | InChI=1S/C6H11F2N.ClH/c7-6(8)4-2-1-3-5(6)9;/h5H,1-4,9H2;1H
